US06476053B1
3-(Hydroxyethylthio)-3-methyl-1-nonylpyrrolidine-2,5-dione
A solution of N-nonyl citraconimide (0.5 mM) prepared as described in Example 5 above in dimethylformamide (10 ml) was treated with triethylamine (0.5 mM) and then 2-mercaptoethanol (0.5 mM) was added dropwise. The progress of the reaction was monitored by thin layer chromatography and when the starting material could no longer be detected the reaction mixture was concentrated in vacuo. The residue obtained was dissolved in ethyl acetate, washed with water and dried over sodium sulfate. Purification by chromatography yielded the desired product.

reactant | N-nonyl citraconimide | 0.5 mM | C(CCCCCCCC)N1C(C(C)=CC1=O)=O | C14H23NO2
reactant | triethylamine | 0.5 mM | C(C)N(CC)CC | C6H15N
reactant | 2-mercaptoethanol | 0.5 mM | SCCO | C2H6OS
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(Hydroxyethylthio)-3-methyl-1-nonylpyrrolidine-2,5-dione | OCCSC1(C(N(C(C1)=O)CCCCCCCCC)=O)C | C16H29NO3S
